*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO3310-301
* Inductance = 0.3uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt LPO3310-301_freq port1 port2 PARAMS: Cpar=2.58pF Ind=0.3uH
X1 port1 port2 Model1A PARAMS:
+ R1=1000
+ R2=0.04
+ C= {Cpar}
+ K1=0.00005
+ K2=0.145
+ K3= {Ind}
+ K4=0.007
+ K5=0.000009
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=305.954319
.ends LPO3310-301_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO3310-301
* Inductance = 0.3uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt LPO3310-301_imp port1 port2 PARAMS: Cpar=2.13pF Ind=0.3uH
X1 port1 port2 Model1D PARAMS:
+ R1=1000
+ R2=0.04
+ C= {Cpar}
+ K1=0.00005
+ K2=0.145
+ K3= {Ind}
+ K4=0.007
+ K5=0.000009
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=305.954319
.ends LPO3310-301_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO3310-471
* Inductance = 0.47uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt LPO3310-471_freq port1 port2 PARAMS: Cpar=0.811pF Ind=0.47uH
X1 port1 port2 Model1A PARAMS:
+ R1=840
+ R2=0.042
+ C= {Cpar}
+ K1=0.0002
+ K2=0.116
+ K3= {Ind}
+ K4=0.011
+ K5=0.0000085
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=663.7441
.ends LPO3310-471_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO3310-471
* Inductance = 0.47uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt LPO3310-471_imp port1 port2 PARAMS: Cpar=0.66pF Ind=0.47uH
X1 port1 port2 Model1D PARAMS:
+ R1=840
+ R2=0.042
+ C= {Cpar}
+ K1=0.0002
+ K2=0.116
+ K3= {Ind}
+ K4=0.011
+ K5=0.0000085
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=663.7441
.ends LPO3310-471_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO3310-701
* Inductance = 0.7uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt LPO3310-701_freq port1 port2 PARAMS: Cpar=0.516pF Ind=0.7uH
X1 port1 port2 Model1A PARAMS:
+ R1=400
+ R2=0.068
+ C= {Cpar}
+ K1=0.00022
+ K2=0.117
+ K3= {Ind}
+ K4=0.01
+ K5=0.000005
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1232.20357
.ends LPO3310-701_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO3310-701
* Inductance = 0.7uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt LPO3310-701_imp port1 port2 PARAMS: Cpar=0.46pF Ind=0.7uH
X1 port1 port2 Model1D PARAMS:
+ R1=400
+ R2=0.068
+ C= {Cpar}
+ K1=0.00022
+ K2=0.117
+ K3= {Ind}
+ K4=0.01
+ K5=0.000005
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1232.20357
.ends LPO3310-701_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO3310-102
* Inductance = 1uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt LPO3310-102_freq port1 port2 PARAMS: Cpar=0.7pF Ind=1uH
X1 port1 port2 Model1A PARAMS:
+ R1=260
+ R2=0.076
+ C= {Cpar}
+ K1=0.00008
+ K2=0.194
+ K3= {Ind}
+ K4=0.025
+ K5=0.0000095
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1754.22996
.ends LPO3310-102_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO3310-102
* Inductance = 1uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt LPO3310-102_imp port1 port2 PARAMS: Cpar=0.57pF Ind=1uH
X1 port1 port2 Model1D PARAMS:
+ R1=260
+ R2=0.076
+ C= {Cpar}
+ K1=0.00008
+ K2=0.194
+ K3= {Ind}
+ K4=0.025
+ K5=0.0000095
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1754.22996
.ends LPO3310-102_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO3310-152
* Inductance = 1.5uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt LPO3310-152_freq port1 port2 PARAMS: Cpar=0.633pF Ind=1.5uH
X1 port1 port2 Model1A PARAMS:
+ R1=210
+ R2=0.12
+ C= {Cpar}
+ K1=0.00014
+ K2=0.32
+ K3= {Ind}
+ K4=0.038
+ K5=0.0000097
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=2939.44067
.ends LPO3310-152_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO3310-152
* Inductance = 1.5uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt LPO3310-152_imp port1 port2 PARAMS: Cpar=0.51pF Ind=1.5uH
X1 port1 port2 Model1D PARAMS:
+ R1=210
+ R2=0.12
+ C= {Cpar}
+ K1=0.00014
+ K2=0.32
+ K3= {Ind}
+ K4=0.038
+ K5=0.0000097
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=2939.44067
.ends LPO3310-152_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO3310-222
* Inductance = 2.2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt LPO3310-222_freq port1 port2 PARAMS: Cpar=0.808pF Ind=2.2uH
X1 port1 port2 Model1A PARAMS:
+ R1=300
+ R2=0.15
+ C= {Cpar}
+ K1=0.000001
+ K2=0.53
+ K3= {Ind}
+ K4=0.058
+ K5=0.00000985
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=3383.9113
.ends LPO3310-222_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO3310-222
* Inductance = 2.2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt LPO3310-222_imp port1 port2 PARAMS: Cpar=0.66pF Ind=2.2uH
X1 port1 port2 Model1D PARAMS:
+ R1=300
+ R2=0.15
+ C= {Cpar}
+ K1=0.000001
+ K2=0.53
+ K3= {Ind}
+ K4=0.058
+ K5=0.00000985
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=3383.9113
.ends LPO3310-222_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO3310-332
* Inductance = 3.3uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt LPO3310-332_freq port1 port2 PARAMS: Cpar=0.875pF Ind=3.3uH
X1 port1 port2 Model1A PARAMS:
+ R1=150
+ R2=0.2
+ C= {Cpar}
+ K1=0.000001
+ K2=0.92
+ K3= {Ind}
+ K4=0.094
+ K5=0.00000995
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=6428.64855
.ends LPO3310-332_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO3310-332
* Inductance = 3.3uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt LPO3310-332_imp port1 port2 PARAMS: Cpar=0.70pF Ind=3.3uH
X1 port1 port2 Model1D PARAMS:
+ R1=150
+ R2=0.2
+ C= {Cpar}
+ K1=0.000001
+ K2=0.92
+ K3= {Ind}
+ K4=0.094
+ K5=0.00000995
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=6428.64855
.ends LPO3310-332_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO3310-472
* Inductance = 4.7uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt LPO3310-472_freq port1 port2 PARAMS: Cpar=1.04pF Ind=4.7uH
X1 port1 port2 Model1A PARAMS:
+ R1=55
+ R2=0.27
+ C= {Cpar}
+ K1=0.000165
+ K2=1.15
+ K3= {Ind}
+ K4=0.137
+ K5=0.0000099
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=8876.66694
.ends LPO3310-472_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO3310-472
* Inductance = 4.7uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt LPO3310-472_imp port1 port2 PARAMS: Cpar=0.84pF Ind=4.7uH
X1 port1 port2 Model1D PARAMS:
+ R1=55
+ R2=0.27
+ C= {Cpar}
+ K1=0.000165
+ K2=1.15
+ K3= {Ind}
+ K4=0.137
+ K5=0.0000099
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=8876.66694
.ends LPO3310-472_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO3310-682
* Inductance = 6.8uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt LPO3310-682_freq port1 port2 PARAMS: Cpar=0.9pF Ind=6.8uH
X1 port1 port2 Model1A PARAMS:
+ R1=75
+ R2=0.36
+ C= {Cpar}
+ K1=0.000525
+ K2=1.79
+ K3= {Ind}
+ K4=0.166
+ K5=0.00000974
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=12625.4054
.ends LPO3310-682_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO3310-682
* Inductance = 6.8uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt LPO3310-682_imp port1 port2 PARAMS: Cpar=0.76pF Ind=6.8uH
X1 port1 port2 Model1D PARAMS:
+ R1=75
+ R2=0.36
+ C= {Cpar}
+ K1=0.000525
+ K2=1.79
+ K3= {Ind}
+ K4=0.166
+ K5=0.00000974
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=12625.4054
.ends LPO3310-682_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO3310-103
* Inductance = 10uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-80MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt LPO3310-103_freq port1 port2 PARAMS: Cpar=1.05pF Ind=10uH
X1 port1 port2 Model1A PARAMS:
+ R1=125
+ R2=0.52
+ C= {Cpar}
+ K1=0.000001
+ K2=2.4
+ K3= {Ind}
+ K4=0.214
+ K5=0.00000986
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=13795.4041
.ends LPO3310-103_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO3310-103
* Inductance = 10uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-80MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt LPO3310-103_imp port1 port2 PARAMS: Cpar=0.91pF Ind=10uH
X1 port1 port2 Model1D PARAMS:
+ R1=125
+ R2=0.52
+ C= {Cpar}
+ K1=0.000001
+ K2=2.4
+ K3= {Ind}
+ K4=0.214
+ K5=0.00000986
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=13795.4041
.ends LPO3310-103_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO3310-153
* Inductance = 15uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-60MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt LPO3310-153_freq port1 port2 PARAMS: Cpar=1.07pF Ind=15uH
X1 port1 port2 Model1A PARAMS:
+ R1=450
+ R2=0.8
+ C= {Cpar}
+ K1=0.000001
+ K2=1.47
+ K3= {Ind}
+ K4=0.066
+ K5=0.0000091
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=7156.28143
.ends LPO3310-153_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO3310-153
* Inductance = 15uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-60MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt LPO3310-153_imp port1 port2 PARAMS: Cpar=1.04pF Ind=15uH
X1 port1 port2 Model1D PARAMS:
+ R1=450
+ R2=0.8
+ C= {Cpar}
+ K1=0.000001
+ K2=1.47
+ K3= {Ind}
+ K4=0.066
+ K5=0.0000091
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=7156.28143
.ends LPO3310-153_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO3310-223
* Inductance = 22uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-60MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt LPO3310-223_freq port1 port2 PARAMS: Cpar=1.2pF Ind=22uH
X1 port1 port2 Model1A PARAMS:
+ R1=35
+ R2=1.2
+ C= {Cpar}
+ K1=0.000001
+ K2=4.78
+ K3= {Ind}
+ K4=0.285
+ K5=0.00000994
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=25685.6975
.ends LPO3310-223_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO3310-223
* Inductance = 22uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-60MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt LPO3310-223_imp port1 port2 PARAMS: Cpar=1.11pF Ind=22uH
X1 port1 port2 Model1D PARAMS:
+ R1=35
+ R2=1.2
+ C= {Cpar}
+ K1=0.000001
+ K2=4.78
+ K3= {Ind}
+ K4=0.285
+ K5=0.00000994
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=25685.6975
.ends LPO3310-223_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO3310-333
* Inductance = 33uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-60MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt LPO3310-333_freq port1 port2 PARAMS: Cpar=1.07pF Ind=33uH
X1 port1 port2 Model1A PARAMS:
+ R1=1
+ R2=1.78
+ C= {Cpar}
+ K1=0.000001
+ K2=6.05
+ K3= {Ind}
+ K4=0.24
+ K5=0.00000985
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=31604.0626
.ends LPO3310-333_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO3310-333
* Inductance = 33uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-60MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt LPO3310-333_imp port1 port2 PARAMS: Cpar=1.03pF Ind=33uH
X1 port1 port2 Model1D PARAMS:
+ R1=1
+ R2=1.78
+ C= {Cpar}
+ K1=0.000001
+ K2=6.05
+ K3= {Ind}
+ K4=0.24
+ K5=0.00000985
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=31604.0626
.ends LPO3310-333_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO3310-473
* Inductance = 47uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-40MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt LPO3310-473_freq port1 port2 PARAMS: Cpar=1.23pF Ind=47uH
X1 port1 port2 Model1A PARAMS:
+ R1=235
+ R2=2.15
+ C= {Cpar}
+ K1=0.000001
+ K2=5.85
+ K3= {Ind}
+ K4=0.161
+ K5=0.00000925
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=23018.5158
.ends LPO3310-473_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO3310-473
* Inductance = 47uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-40MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt LPO3310-473_imp port1 port2 PARAMS: Cpar=1.21pF Ind=47uH
X1 port1 port2 Model1D PARAMS:
+ R1=235
+ R2=2.15
+ C= {Cpar}
+ K1=0.000001
+ K2=5.85
+ K3= {Ind}
+ K4=0.161
+ K5=0.00000925
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=23018.5158
.ends LPO3310-473_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Impedance Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   Time Domain Inductor Impedance Model
*======================================================================
.subckt Model1D Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ K3=1
+ PkZ=1
R2 Lin N001 {R2}
R3 N001 Lout {PkZ}
C1 N001 N002 {C}
R1 N002 Lout {R1}
L1 N001 Lout {K3}
.ends Model1D

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Power Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   DC Bias Current = 0 A
*   Frequency Dependent Inductor Model
*======================================================================
.subckt Model1A Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ K1=1
+ K2=1
+ K3=1
+ K4=1
+ K5=1
R2 N001 Lin {R2}
R1 Lout N002 {R1}
C1 N002 N001 {C}
G_Rvar2 N001 Lout LAPLACE { V(N001, Lout) } {1/K2/(-S*S/4/PI^2)^0.25}
G_Rvar1 N001 N003 LAPLACE { V(N001, N003) } {1/K1/(-S*S/4/PI^2)^0.25}
G_Lvar N003 Lout  LAPLACE { V(N003, Lout) } {1/(S*1e-6*({K3*1e6}-({K4}*LOG({K5}*(sqrt(-S*S)/(2*pi))))))}
*This large resistance to ground has been added to prevent a floating node error
R3 N003 0 100Meg
.ends Model1A


.subckt Coilcraft_Inductor Lin Lout
R1 Lout Lin 100Meg
.ends Coilcraft_Inductor
